US09382265B2
(d) 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-aminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide
Compound 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-t-butylaminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide (124 mg, 0.215 mmol) was dissolved in 2 ml of TFA. The resulting mixture was heated to 40° C. and agitated for 2 h. TLC (PE/EA=1/1) was employed to monitor the reaction. After the reaction completed, TFA was evaporated, and the remainder was diluted by 20 ml of EA, washed with 8 ml of water and 8 ml of saturated saline solution for one time each, dried over anhydrous sodium sulfate, and the solvent was evaporated. Column chromatography (PE/EA=2/1) afforded 91 mg of white solid, yield: 81.22%.

reactant | 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-t-butylaminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 0.215 mmol, 124 mg | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C3=C(C=CC=C3)S(=O)(=O)NC(C)(C)C)=O | C26H26ClN3O6S2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-aminosulfonylphenyl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 91 mg, yield: 81.22% | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C3=C(C=CC=C3)S(=O)(=O)N)=O | C22H18ClN3O6S2
